US05880259
4.03 g of Z-D-Thr(tBu)-D-Tyr(tBu)-OMe (7.45 mmoles) were dissolved in 250 ml of CH30H. After addition of 850 mg of 10% Pd on activated charcoal (Fluka, cat. No 75990) a hydrogen stream was blown on the solution at room temperature under shaking for 4 h. The hydrogenation reaction was monitored by TLC. After removal of the catalyst by filtration and evaporation of the filtrate, 2.88 g (7.08 mmoles, yield 95%) of H-D-Thr(tBu)-D-Tyr(tBu)-OMe were obtained in the form of pure oil (TLC).

reactant | Z-D-Thr(tBu)-D-Tyr(tBu)-OMe | 7.45 mmoles, 4.03 g | N([C@H]([C@@H](OC(C)(C)C)C)C(=O)N[C@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C30H42N2O7
reactant | hydrogen | [H][H] | H2
catalyst | Pd on activated charcoal | 850 mg | [Pd] | Pd
product | H-D-Thr(tBu)-D-Tyr(tBu)-OMe | 7.08 mmoles, 2.88 g, yield 95% | N[C@H]([C@@H](OC(C)(C)C)C)C(=O)N[C@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC | C22H36N2O5
